US07056692B2
RPTP β/ζ Tyrosine Phosphatase Activity
RPTP β/ζ activity in Sf9 cell membranes. The Bac-to-Bac Baculovirus Expression System (Life Technologies, Gibco/BRL, Gaithersburg, Md., USA) was used to express RPTP β/ζ in Sf9 cells. A full-length human RPTP β/ζ cDNA was cloned into a pFastBac donor plasmid at NotI and XbaI sites (pFastBac-RPTP β/ζ), transformed into DH10Bac Escherichia coli which contains bacmid and helper virus, and plasmid DNA prepared. Sf9 cells were infected by the recombinant virus according to the manufacturer's instructions. To prepare membrane fractions, cells were sonicated in a hypotonic lysis buffer (25 mM Tris-HCl, pH 7.5/25 mM sucrose/0.1 mM EDTA/5 mM MgCl2/5 mM DTT/1 mM phenylmethylsulfonyl fluoride/0.5 μg/ml leupeptin/1 μg/ml aprotinin), nuclei were removed by low-speed centrifugation, and membrane fractions were obtained by centrifugation at 100,000×g for 60 minutes at 4° C. The resulting pellets were suspended by sonication in lysis buffer, brought to a concentration of 2 mg/ml, and used to measure PTPase activity as above.

reactant | Tris-HCl | 25 mM | C(C(CO)(CO)N)O.Cl
reactant | sucrose | 25 mM | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | leupeptin | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)C | C20H38N6O5
product | Tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
